US04584014
A 500 ml single necked round bottomed flask was equipped with a stirring bar. The flask was charged with 2-bromopropionic acid (28.6 gm, 0.187 mole), water (100 ml) and sodium hydroxide (14.9 gm, 50% aqueous 0.187 mole). N-hydroxymethyl urethane (17.0 gm, 0.187 mole) was added in one portion, followed by another equivalent of 50% aqueous sodium hydroxide (14.9 gm). The resulting solution was warmed on a steam bath for about 4 hours. This solution was cooled to room temperature and adjusted to pH 4 with concentrated hydrochloric acid. The resulting mixture was extracted with ethyl acetate. The organic extracts were dried over magnesium sulfate then taken to residue in vacuo to leave N-carbomethoxy-alpha-aminooxypropionic acid as a clear oil. This was crystallized from diethyl ether to give 15.1 gm of the compound as a white solid having a melting point of 85°-92° C. This compound was stirred with concentrated hydrochloric acid (30 ml) in a 50 ml Erlenmeyer flask for about five hours. Water and acid were removed in vacuo to leave N-carbomethoxy-alpha-aminooxypropionic acid hydrochloride (6.9 gm) having a melting point of 144°-48° C.

reactant | 2-bromopropionic acid | 0.187 mole, 28.6 gm | BrC(C(=O)O)C | C3H5BrO2
reactant | sodium hydroxide | 0.187 mole, 14.9 gm | [OH-].[Na+]
reactant | N-hydroxymethyl urethane | 0.187 mole, 17.0 gm | OCNC(=O)OCC | C4H9NO3
reactant | sodium hydroxide | 14.9 gm | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N-carbomethoxy-alpha-aminooxypropionic acid | C(=O)(OC)NOC(C(=O)O)C | C5H9NO5
